US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(2-fluoroethyl)-2-methyl-1H-imidazole-4-carboxamide
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-methyl-1H-imidazole-4-carboxamide (100 mg, 0.271 mmol) suspended in acetonitrile (5 ml). Into the mixture, cesium carbonate (124 mg, 0.380 mmol) and 1-Iodo-2-fluoroethane (0.049 ml, 0.596 mmol) were added and the resulting mixture was stirred overnight at RT. Water (2 ml) was added and the mixture was evaporated. The product was purified with LC/MS-trigger. 1H-NMR (400 MHz; CDCl3): δ 1.23 (d, 3H), 2.42 (s, 3H), 4.12-4.23 (m, 2H), 4.30 (dd, 1H), 4.39 (dd, 1H), 4.51-4.61 (m, 1H), 4.58-4.73 (m, 2H), 6.61 (d, 1H), 7.49 (d, 1H), 7.51 (d, 1H), 7.62 (d, 1H), 7.77 (dd, 1H), 7.85 (dd, 1H), 8.00 (dd, 1H).

reactant | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-methyl-1H-imidazole-4-carboxamide | 0.271 mmol, 100 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(NC1)C | C18H17ClN6O
reactant | cesium carbonate | 0.380 mmol, 124 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-Iodo-2-fluoroethane | 0.596 mmol, 0.049 ml | ICCF | C2H4FI
reactant | Water | 2 ml | O | H2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1-(2-fluoroethyl)-2-methyl-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(N(C1)CCF)C | C20H20ClFN6O
